US04337256
To a mixture of 2.5 g of sodium cyanide and 150 ml of dimethylsulfoxide was added 14 g of 1-(4-bromophenyl)-5-chloromethylisoquinoline little by little. The mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into a mixture of ethyl acetate and a dilute aqueous solution of sodium bicarbonate. The organic layer was separated, dried, and recrystallized from dichloromethane-hexane to afford 8.5 g of 1-(4-bromophenyl)isoquinoline-5-acetonitrile as colorless prisms having a melting point of 121.5° to 122.5° C.

reactant | sodium cyanide | 2.5 g | [C-]#N.[Na+]
reactant | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
reactant | 1-(4-bromophenyl)-5-chloromethylisoquinoline | 14 g | BrC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CCl | C16H11BrClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-bromophenyl)isoquinoline-5-acetonitrile | 8.5 g | BrC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC#N | C17H11BrN2
